US07348337B2
1-[4-(Bromo-phenyl-methylene)-piperidin-1-yl]-2-(7-chloro-1H-pyrrolo [3,2-b]pyridin-3-yl)-ethane-1,2-dione
To a solution of (7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-oxo-acetic acid (191 mg, 0.87 mmol), 4-(bromophenylmethylene)-piperidine hydrochloride salt (245 mg, 0.85 mmol) and diisopropylethylamine (440 mg, 3.4 mmol) in chloroform (10 mL) was added BOPCl (261 mg, 1.02 mmol). The reaction solution was stirred two days, treated with additional diisopropylethylamine (440 mg, 3.4 mmol) and BOPCl (130 mg, 0.50 mmol) and stirred three days. The reaction mixture was concentrated, dissolved into MeOH and purified by preparative HPLC to yield title compound shown (293 mg, 0.64 mmol, 75%) as a white solid.

reactant | (7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-oxo-acetic acid | 0.87 mmol, 191 mg | ClC1=C2C(=NC=C1)C(=CN2)C(C(=O)O)=O | C9H5ClN2O3
reactant | 4-(bromophenylmethylene)-piperidine hydrochloride salt | 0.85 mmol, 245 mg | Cl.BrC(=C1CCNCC1)C1=CC=CC=C1
reactant | diisopropylethylamine | 3.4 mmol, 440 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 1.02 mmol, 261 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | diisopropylethylamine | 3.4 mmol, 440 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 0.50 mmol, 130 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(Bromo-phenyl-methylene)-piperidin-1-yl]-2-(7-chloro-1H-pyrrolo [3,2-b]pyridin-3-yl)-ethane-1,2-dione | BrC(=C1CCN(CC1)C(C(=O)C1=CNC=2C1=NC=CC2Cl)=O)C2=CC=CC=C2 | C21H17BrClN3O2
